US09293712B2
A mixture of N-([1,1′-biphenyl]-2-yl)-6-cyclohexyl-N-(4-methoxyphenyl)dibenzo[b,d]furan-4-amine (8.9 g, 17.0 mmol) and pyridine hydrochloride (19.6 g, 170.0 mmol) was purged with nitrogen overnight. The mixture was then refluxed for 2 h. After cooling, the precipitate was filtered and washed by excess water. The residue was purified by flash chromatography using 90% DCM/hexane (containing 1% triethylamine) to yield 4-([1,1′-biphenyl]-2-yl(6-cyclohexyldibenzo[b,d]furan-4-yl)amino)phenol (6.5 g, 75% yield) as a white solid.

reactant | N-([1,1′-biphenyl]-2-yl)-6-cyclohexyl-N-(4-methoxyphenyl)dibenzo[b,d]furan-4-amine | 17.0 mmol, 8.9 g | C1(=C(C=CC=C1)N(C1=CC=CC2=C1OC1=C2C=CC=C1C1CCCCC1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C37H33NO2
reactant | pyridine hydrochloride | 170.0 mmol, 19.6 g | Cl.N1=CC=CC=C1
product | 4-([1,1′-biphenyl]-2-yl(6-cyclohexyldibenzo[b,d]furan-4-yl)amino)phenol | 6.5 g, 75% yield | C1(=C(C=CC=C1)N(C1=CC=C(C=C1)O)C1=CC=CC2=C1OC1=C2C=CC=C1C1CCCCC1)C1=CC=CC=C1 | C36H31NO2
